US07528136B2
d) (2S,4R)-4-(2,4-Difluoro-benzylamino)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester
To a solution of 4-amino-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (2 mmol, 1 equvi) was dissolved in dry DCM (20 ml) cooled to 0 centigrade was added 2,4-difluorobenzaldehyde (1.05 equiv), then NaBH(OAc)3 (2 equiv) and 5 drops of HOAc. The mixture was warmed to room temperature and stirred overnight. The mixture was diluted with DCM, washed with brine, and dried over anhydrous sodium sulfate. After removal of solvent, the crude product was used for the next step without further purification. MS m/e=371.4 [M+H]+.

reactant | 4-amino-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 2 mmol | COC(=O)C1N(CC(C1)N)C(=O)OC(C)(C)C | C11H20N2O4
reactant | 2,4-difluorobenzaldehyde | 1.05 equiv | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
reactant | NaBH(OAc)3 | 2 equiv | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | HOAc | 5 drops | CC(=O)O | C2H4O2
product | (2S,4R)-4-(2,4-Difluoro-benzylamino)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | COC(=O)[C@H]1N(C[C@@H](C1)NCC1=C(C=C(C=C1)F)F)C(=O)OC(C)(C)C | C18H24F2N2O4
